US04434101
To a solution of 8.7 g (45 mmoles) of p-toluenesulfonyl chloride in 60 ml pyridine was added dropwise at 0°-5° C., a solution of 5.8 g (31.8 mmoles) of (Z,Z)-3,6-dodecadienol (T. Kajiwara, J. Sekiya, Y. Odake and A. Hatanaka, Agric. Biol. Chem., 41, 1481 (1977)). The temperature was allowed to rise to 25° C., and the reaction mixture was stirred at room temperature overnight. The resulting suspension was slowly poured into a mixture of 1 N aqueous sulfuric acid and ice and the product extracted with ether. The ether extracts were combined, washed with 10% sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent evaporated under reduced pressure. The residue (8.0 g) was chromatographed on a silica gel column. Elution with 1:1 hexane-ether gave 4.9 g (14.6 mmoles) (45.8%) of (Z,Z)-3,6-dodecadienyl tosylate, which was dissolved in 20 ml of acetone.

reactant | p-toluenesulfonyl chloride | 45 mmoles, 8.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (Z,Z)-3,6-dodecadienol | 31.8 mmoles, 5.8 g | C(C\C=C/C\C=C/CCCCC)O | C12H22O
reactant | sulfuric acid | 1 N | S(O)(O)(=O)=O | H2O4S
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | (Z,Z)-3,6-dodecadienyl tosylate | 14.6 mmoles, 4.9 g, 45.8% | S(=O)(=O)(OCC\C=C/C\C=C/CCCCC)C1=CC=C(C)C=C1 | C19H28O3S
